US05047516
(a) 2-Nitro-4-(heptadecyloxycarbonyl)aniline
A mixture of 2-nitro-4-carboxyaniline (0.52 g), heptadecanol (0.7 g) and dimethylaminopyridine (20 mg) in dichloromethane (20 ml) was prepared and dicyclohexyldicarbodiimide (0.62 g) was added. The mixture was stirred for 48 hours and filtered. After separating between chloroform and 3% caustic soda solution the organic phase was washed with water, dried with magnesium sulphate and the solvent removed to leave a yellow solid. The solid was purified by chromatography to give a yellow solid which was recrystallised from 50:50 chloroform-hexane (yield: 0.85 g, m.p. 103°-105° C.).

reactant | 2-nitro-4-carboxyaniline | 0.52 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(=O)O | C7H6N2O4
reactant | heptadecanol | 0.7 g | C(CCCCCCCCCCCCCCCC)O | C17H36O
reactant | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Nitro-4-(heptadecyloxycarbonyl)aniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(=O)OCCCCCCCCCCCCCCCCC | C24H40N2O4
